US08242125B2
133-A. (5-Cyclopropyl-4-methyl-isoxazol-3-yl)-carbamic acid phenyl ester
(5-Cyclopropyl-isoxazol-3-yl)-carbamic acid phenyl ester (0.368 g, 1.51 mmol) is dissolved in THF (10 mL) and cooled to −78° C. and flushed with nitrogen. N-butyllithium (2.17 mL, 3.47 mmol) is then added. The mixture is stirred in the dry ice/acetone bath for 30 minutes. Methyl iodide (0.10 mL, 1.66 mmol) is added neat and the reaction is stirred for 2 hours at −78° C. The reaction is quenched (0° C.) with 20 mL of a saturated solution of ammonium chloride, diluted with ethyl acetate and the organic layer is removed, dried (sodium sulfate) and concentrated to an oil that is purified via FCC (0-40% ethyl acetate:heptanes) to give the title compound as an oil. MS (ESI) m/z 259.20 (M+1).

reactant | (5-Cyclopropyl-isoxazol-3-yl)-carbamic acid phenyl ester | 1.51 mmol, 0.368 g | C1(=CC=CC=C1)OC(NC1=NOC(=C1)C1CC1)=O | C13H12N2O3
reactant | N-butyllithium | 3.47 mmol, 2.17 mL | [Li+].CCC[CH2-]
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | Methyl iodide | 1.66 mmol, 0.10 mL | CI | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (5-Cyclopropyl-4-methyl-isoxazol-3-yl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=NOC(=C1C)C1CC1)=O | C14H14N2O3
